US06265586B1
AD-mix-β [Produced by ALDRICH company] (213 g) was added to a mixture of tert-butanol (760 ml) and water (760 ml). To the mixture was added methanesulfonamide (14.5 g). Under ice cooling, ethyl crotonate (17.4 g) was added, and the mixture was stirred for 5 hours at 0 to 6° C. and 25 hours at room temperature. Sodium sulfite (225 g) was added and the mixture was stirred for 1 hour. The mixture was extracted with ethyl acetate (1 litter)for 22 hours by using liquid-liquid extraction apparatus. The ethyl acetate layer was taken, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added diethyl ether (300 ml), and insolubles were filtered off. The filtrate was concentrated under reduced pressure. To the residue was added 30% a solution of hydrogen bromide in acetic acid (125 ml), and the mixture was stirred for 1 hour at 45° C. After the mixture was cooled to room temperature, ethanol (280 ml) was added. The mixture was stirred for 21 hours at 45° C. and poured into a mixture of sodium hydrogencarbonate (168 g) and water (500 ml) under ice cooling with cautiously. The mixture was extracted five times with diethylether (200 ml). The organic layers were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in dichloromethane (200 ml). To the solution was added DBU (23.4 g). The mixture was stirred for 1 hour at room temperature, diluted with dichloromethane (300 ml) and washed with water (100 ml) and 0.5 N hydrochloric acid (200 ml). The aqueous layer was extracted twice with dichloromethane (50 ml). The dichloromethane layers were combined, and to the layer was added triethylamine (1 ml). The mixture was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to distillation under reduced pressure to give ethyl (2S,3R)-2,3-epoxybutanoate (10.0 g) as colorless liquid (Yield: 50%). Optical purity based on the analysis of HPLC of the product was 95% ee.

reactant | AD-mix-β | 213 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 14.5 g | CS(=O)(=O)N | CH5NO2S
reactant | ethyl crotonate | 17.4 g | C(\C=C\C)(=O)OCC | C6H10O2
reactant | Sodium sulfite | 225 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 760 ml | O | H2O
solvent | tert-butanol | 760 ml | C(C)(C)(C)O | C4H10O
product | ethyl (2S,3R)-2,3-epoxybutanoate | 10.0 g, Yield: 50% | O1[C@H](C(=O)OCC)[C@H]1C | C6H10O3
